US05391743
II. Synthesis of 7-Methoxyisoquinoline
To a 2 liter round bottom flask equipped with a magnetic stir bar, condenser and nitrogen inlet is added (75 g, 0.184 mole) of N-(2,2-diethoxyethyl)-N-[(3-methoxyphenyl)methyl]-4-methyl-benzenesulfonamide, 1.0 liter of dioxane and 200 ml of 6N HCl. This slurry is stirred and heated at reflux under nitrogen for 18 hours. The reaction solution is then slowly poured into 1 liter of H2O and stirred for an additional 30 minutes then extracted with ether (2×500 ml). The pH of the aqueous layer is adjusted to 8 with ammonium hydroxide, the product is extracted with dichloromethane. The combined organics extracts are dried over MgSO4, filtered and evaporated to yield 30 g of an oil. The crude product is purified by chromatography with 12.0% acetone in dichloromethane to provide the product (19.7 g) in a 67% yield.

reactant | N-(2,2-diethoxyethyl)-N-[(3-methoxyphenyl)methyl]-4-methyl-benzenesulfonamide | 0.184 mole, 75 g | C(C)OC(CN(S(=O)(=O)C1=CC=C(C=C1)C)CC1=CC(=CC=C1)OC)OCC | C21H29NO5S
reactant | dioxane | 1.0 liter | O1CCOCC1 | C4H8O2
reactant | HCl | 6N, 200 ml | Cl | ClH
solvent | H2O | 1 liter | O | H2O
product | 7-Methoxyisoquinoline | 30 g, 67% yield | COC1=CC=C2C=CN=CC2=C1 | C10H9NO
